data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4171,4774,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C:11]([CH3:12])=[N+:13]([CH3:14])[C-:15]([C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:15]([C:16]([CH3:17])=[O:18])([C:19]([CH3:20])=[O:21])[N:13]([CH3:14])[C:11]1([C:9]([NH:8][CH3:7])=[O:10])[CH3:12],water,298.15,48.9446348612644,8.46041141678848
3422,3892,[CH3:10][c-:11]1[nH+:12][c:13]([C:14]#[N:15])[o:16][c:17]1=[O:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]2([C:14]#[N:15])[NH:12][C:11]1([CH3:10])[C:17](=[O:18])[O:16]2,water,298.15,26.28080419681508,-4.865033453658191
2963,3312,[CH3:6][CH-:7][NH+:8]=[CH:9][C:10]([CH3:11])=[O:12].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[CH:9]([C:10]([CH3:11])=[O:12])[NH:8][CH:7]1[CH3:6],water,298.15,33.44155679341364,20.556424100723763
4384,5005,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20]([CH3:21])=[O:22])[o+:23]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:19]1([C:20]([CH3:21])=[O:22])[C:17](=[O:18])[O:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[O:23]1,water,298.15,25.2471306892902,-4.136319770387382
2152,2387,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([NH+:15]=[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29](=[O:30])[O:31][CH3:32].[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]([CH3:8])=[O:9]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:29](=[O:30])[O:31][CH3:32])[NH:15][C:16]1([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,17.973308475039662,-34.738609899508425
3132,3530,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[N-:9][N+:10]([CH3:11])=[CH:12][C:13]([CH3:14])=[O:15]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:9]([C:7]([NH:6][CH3:5])=[O:8])[N:10]([CH3:11])[CH:12]1[C:13]([CH3:14])=[O:15],water,298.15,24.8631436652835,-23.20487282871469
150,167,[CH3:9][C:10]([CH3:11])=[N+:12]([CH3:13])[C-:14]([CH3:15])[CH3:16].[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[Cl:1][C:2]1=[CH:3][CH:4]2[CH:5]3[CH:6]([CH:7]1[O:8]2)[C:14]([CH3:15])([CH3:16])[N:12]([CH3:13])[C:10]3([CH3:9])[CH3:11],water,298.15,10.715547161682148,-63.94698864401664
2008,2230,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([O+:18]=[C:19]([CH3:20])[C:21](=[O:22])[O:23][CH3:24])[C:25](=[O:26])[O:27][CH3:28].[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([F:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([F:7])([Cl:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([C:25](=[O:26])[O:27][CH3:28])[O:18][C:19]2([CH3:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,16.47571251037298,-62.95324812463671
4460,5092,[CH3:10][NH:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([C:19](=[O:20])[NH:21][CH3:22])[o+:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[O:15][C:16](=[O:17])[C:18]1([C:19](=[O:20])[NH:21][CH3:22])[O:23]2,water,298.15,7.7631843969919005,-20.544247709778023
3985,4560,[CH3:9][NH:10][C:11](=[O:12])[C:13]([C:14]#[N:15])=[O+:16][C-:17]([CH3:18])[C:19]([CH3:20])=[O:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:17]([CH3:18])([C:19]([CH3:20])=[O:21])[O:16][C:13]1([C:11]([NH:10][CH3:9])=[O:12])[C:14]#[N:15],water,298.15,5.673953878078557,-40.98217534827151
4955,5641,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][c-:16]1[o+:17][c:18](-[c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[o:25][c:26]1=[O:27]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:16]1([CH3:15])[O:17][C:18]2([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[O:25][C:26]1=[O:27],water,298.15,15.979508295221764,-10.110683235766375
3962,4535,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19]([CH3:20])=[O:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])=[N:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[C:19]([CH3:20])=[O:21],water,298.15,15.58900819496891,-31.694058851128823
